US05994368
To a solution of methyl (E)-3-[6-(N-methyl-N-acetylamino)pyridin-3-yl]acrylate (110 mg) in methanol (3 ml) was added 1N sodium hydroxide solution (1.1 ml) at ambient temperature and the mixture was stirred at 50° C. for 4 hours. The reaction mixture was evaporated in vacuo and was dissolved in water. The solution was adjusted to pH 6 with 1N hydrochloric acid, and the precipitate was cooled by vacuum filtration to give (E)-3-[6-(methylamino)pyridin-3-yl]acrylic acid (72 mg) as a powder.

reactant | methyl (E)-3-[6-(N-methyl-N-acetylamino)pyridin-3-yl]acrylate | 110 mg | CN(C(C)=O)C1=CC=C(C=N1)/C=C/C(=O)OC | C12H14N2O3
reactant | sodium hydroxide | 1N, 1.1 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | (E)-3-[6-(methylamino)pyridin-3-yl]acrylic acid | 72 mg | CNC1=CC=C(C=N1)/C=C/C(=O)O | C9H10N2O2
